US09085578B2
2-chloro-5-((4-methylpiperazin-1-yl)methyl)pyrazine
Sodium triacetoxyborohydride (870 mg) was added to a solution of 5-chloropyrazine-2-carbaldehyde (390 mg) and 1-methylpiperazine (0.335 mL) in acetonitrile (10 mL) at 0° C. The reaction mixture was stirred at room temperature for 4 hr. To the reaction mixture was added saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The obtained organic layer was washed successively with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (basic silica gel, hexane/ethyl acetate) to give the title compound (285 mg).

reactant | Sodium triacetoxyborohydride | 870 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 5-chloropyrazine-2-carbaldehyde | 390 mg | ClC=1N=CC(=NC1)C=O | C5H3ClN2O
reactant | 1-methylpiperazine | 0.335 mL | CN1CCNCC1 | C5H12N2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-chloro-5-((4-methylpiperazin-1-yl)methyl)pyrazine | 285 mg | ClC1=NC=C(N=C1)CN1CCN(CC1)C | C10H15ClN4
